sim_test
*SPICE Netlist generated by Advanced Sim server on 2022/3/18 ¤U¤È 07:01:07
.options MixedSimGenerated

*Schematic Netlist:
RR1 12V NetR1_2 40K TC1=0 TC2=0
RR2 NetR1_2 0 11k TC1=0 TC2=0
RR3 12V NetR3_2 12K TC1=0 TC2=0
RR4 0 NetR4_2 12K TC1=0 TC2=0
RR6 NetR6_1 NetR4_2 3.3K TC1=0 TC2=0
RR? 0 NetR3_2 3.3K TC1=0 TC2=0
XU1 NetR3_2 NetR4_2 3P3 0 NetR6_1 IDEALOPAMP_5NODES PARAMS: GAIN=1Meg
VV1 12V 0 12 AC 1 0
VV2 3P3 0 3.3 AC 1 0

.PROBE {V(NetR6_1)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetR1_2)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Models and Subcircuits:
*------------------------
.SUBCKT IdealOpamp_5nodes  In+ In- VCC VEE Out PARAMS: GAIN=1Meg
RVCC VCC 0 1
RVEE VEE 0 1
E1 Out 0 In+ In- {Gain}
R1 In+ In- 1e12
.ENDS

.END